US07671062B2
A stirring solution of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-aminocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (˜0.135 mol) in methanol (675 mL) was charged sequentially with acetone (37.8 g, 4 eq), sodium acetate (33.2 g, 3 eq), and sodium cyanoborohydride (16.9 g, 2 eq). The mixture was stirred at room temperature for 6 h and filtered. The filtrate was dissolved in dichloromethane (1 L); this solution was washed with 1N NaOH (1 L). The solids collected in the filtration were dissolved in 1N NaOH (1 L) at 0° C. and then extracted with dichloromethane (1 L). The organic extracts were combined and extracted with aqueous HCl (200 mL 1N HCl+800 mL water). The aqueous phase was basified with sat. NaHCO3 (500 mL) and then 1N NaOH (100 mL) until pH 11. The aqueous phase was extracted with dichloromethane (2 L). The organic extracts were combined, dried (Na2SO4), filtered, and concentrated in vacuo to give benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate as an oil. LC/MS found [M+H]+=431.45. 1H-NMR (400 MHz, d4-MeOH): δ 7.3-7.4 (m, 5H), 5.12 (s, 2H), 4.31 (m, 1H), 4.24 (t, J=9.4 Hz, 1H), 4.11 (m, 1H), 3.61 (t, J=9.1 Hz, 1H), 3.52 (q, J=8.6 Hz, 1H), 3.04 (br. s, 1H), 2.96 (sep, J=6.3 Hz, 1H), 2.40 (m, 1H), 2.15 (m, 1H), 1.92 (s, 3H), 1.7-1.9 (m, 5H), 1.65 (m, 1H), 1.12 (app. dd, J=6.3, 1.1 Hz, 6H).

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-aminocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | ˜0.135 mol | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)N)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C20H28N4O4
reactant | acetone | 37.8 g, 4 eq | CC(=O)C | C3H6O
reactant | sodium acetate | 33.2 g, 3 eq | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 16.9 g, 2 eq | C(#N)[BH3-].[Na+]
solvent | methanol | 675 mL | CO | CH4O
product | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(isopropylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)NC(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C23H34N4O4
